US06037367
8(a) Methyl 3-iodobenzoate
3-Iodobenzoic acid (10.0 g, 40.3 mmol) was placed in dry methanol (50 mL) under an argon atmosphere and was treated with chlorotrimethylsilane (15.4 mL, 0.12 mol). After heating at 65° C. for 4 h, the mixture was cooled to room temperature and was concentrated in vacuo. The residue was partitioned between ethyl acetate (100 mL) and water, the organic phase was washed twice with water, was dried (Na2SO4) and was evaporated to provide the titled compound as a white solid (10.6 g, 100%).

reactant | 3-Iodobenzoic acid | 40.3 mmol, 10.0 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | chlorotrimethylsilane | 0.12 mol, 15.4 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 3-iodobenzoate | 10.6 g, 100% | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
